US09399640B2
Step 2. 4-(2,4-Difluorophenoxy)-1-methyl-5-(6-methyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one
A solution of 4-(2,4-difluorophenoxy)-1-methyl-5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one (20.0 mg, 0.0347 mmol) in ethanol (2.0 mL) was treated with 3.0 M Sodium hydroxide in water (116 μL, 0.347 mmol) and stirred at RT overnight. The reaction mixture was purified via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% trifluoroacetic acid, at flow rate of 60 mL/min) to give the desired product (14.5 mg, 99%). 1H NMR (400 MHz, DMSO-d6) δ 11.94 (s, 1H), 11.25 (s, 1H), 7.25-7.06 (m, 5H), 6.74-6.62 (m, 1H), 6.51-6.38 (m, 1H), 6.14-6.05 (m, 1H), 3.44 (s, 3H), 3.34 (s, 3H); LCMS calculated for C22H17F2N4O3 (M+H)+: m/z=423.1. found: 423.1.

reactant | 4-(2,4-difluorophenoxy)-1-methyl-5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one | 0.0347 mmol, 20.0 mg | FC1=C(OC2=C(C=CC=3N(C(NC32)=O)C)C=3C2=C(C(N(C3)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C29H22F2N4O5S
reactant | Sodium hydroxide | 3.0 M | [OH-].[Na+]
reactant | water | 0.347 mmol, 116 μL | O | H2O
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | 4-(2,4-Difluorophenoxy)-1-methyl-5-(6-methyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one | 14.5 mg, 99% | FC1=C(OC2=C(C=CC=3N(C(NC32)=O)C)C=3C2=C(C(N(C3)C)=O)NC=C2)C=CC(=C1)F | C22H16F2N4O3
